US04898874
7-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole
To a solution of 12.2 g (0.054 mole) of 7-ethyl-3-phenyl-2,1-benzisoxazole in 60 ml of carbon tetrachloride was added 10.5 g (0.059 mole) of N-bromosuccinimide and 0.1 g of dibenzoylperoxide. The stirred reaction mixture was heated at reflux under flood light illumination and an argon atmosphere for 2.5 hr. The cooled reaction mixture was filtered and the filter cake was washed with 40 ml of carbon tetrachloride. The combined filtrates were washed with three 100 ml portions of 10% sodium bicarbonate, twice with 100 ml portions of water and dried over sodium sulfate. The sodium sulfate was removed by filtration, the filtrate was treated with charcoal and filtered. The filtrate was concentrated to give 16.2 g (98%) of slightly impure title compound as a light brown oil that solidified upon standing. A sample was recrystallized from diethyl ether-petroleum ether (30°-60° C.) to give yellow crystals, m.p. 73°-77° C.

reactant | 7-ethyl-3-phenyl-2,1-benzisoxazole | 0.054 mole, 12.2 g | C(C)C1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C15H13NO
reactant | N-bromosuccinimide | 0.059 mole, 10.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(1-Bromoethyl)-3-phenyl-2,1-benzisoxazole | BrC(C)C1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C15H12BrNO
